datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:19])[H:18])([H:16])[H:17])[H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])=[C:6]([H:19])[C:7]1([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:13])([H:11])[H:12],135.185
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[S:16][H:23])[H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:14]([C:13](=[C:12]([H:17])[H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[S:16][H:23],41.84
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](=[C:14][C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:14](=[C:13]([H:16])[H:17])[C:15]([H:18])([H:19])[H:20],-12.1336
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15]([C:16](=[S:17])[H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:15]([C:16](=[S:17])[H:20])([H:18])[H:19],36.8192
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([C:6]([C:7](=[C:8]([H:18])[H:19])[H:17])([H:15])[H:16])[H:14])[H:13])[H:9]>>[C:0](#[C:1][C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])=[C:5]([H:14])[C:6]([H:15])([H:16])[C:7]1([C:8]([H:18])[H:19])[H:17])[H:9],119.788
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:9]([C:8](=[C:7]([H:11])[H:12])[H:13])([C:10]([H:15])([H:16])[H:17])[H:14],63.5968
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4](=[C:5]([C:6]([C:7]([C:8](=[C:9]([H:23])[H:24])[H:22])=[C:10]([C:11]([H:26])([H:27])[H:28])[H:25])([H:20])[H:21])[H:19])[H:18])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])=[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]([C:8](=[C:9]([H:23])[H:24])[H:22])[C:10]1([C:11]([H:26])([H:27])[H:28])[H:25])[H:14])([H:12])[H:13],118.742
[C:16]([H:17])([H:18])[H:19].[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:9])[H:10])[H:8]>>[H:9][C:16]([H:17])([H:18])[H:19].[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])[H:8],15.4808
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21](#[C:22][C:23]([C:24]([H:27])([H:28])[H:29])[C:25]([H:30])([H:31])[H:32])[H:26]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[C:23]([C:22]#[C:21][H:26])([C:24]([H:27])([H:28])[H:29])[C:25]([H:30])([H:31])[H:32])[H:11],38.1999
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])[H:17])([H:15])[H:16]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])([H:6])[C:12]([C:11](=[C:10]([H:15])[H:16])[H:17])([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])([H:4])[H:5],50.7938
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:7])([H:4])([H:5])[H:6].[O:12][O:13][H:14]>>[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:7])([H:5])[H:6].[H:4][O:12][O:13][H:14],40.91952
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([S:11][H:17])[C:12](=[S:13])[H:18])([H:14])([H:15])[H:16]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:10]([C:9]([H:14])([H:15])[H:16])([S:11][H:17])[C:12](=[S:13])[H:18],176.021
[C:0]([N:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0]([N:1][C:2]([H:7])([H:8])[H:9])([H:3])([H:4])[H:5].[H:6][C:10]([H:11])([H:12])[H:13],36.994928
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[H:10]>>[C:0](#[C:1][C:2]=[C:3]([C:4](=[C:5]([H:8])[H:9])[H:7])[H:10])[H:6],12.0918
[C:0]([C:1]([S:2][H:7])[H:6])([H:3])([H:4])[H:5].[S:8]=[C:9]([S:10][H:12])[H:11]>>[C:0]([C:1]([S:2][H:7])([H:6])[H:12])([H:3])([H:4])[H:5].[S:8]=[C:9]([S:10])[H:11],-15.4808
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[C:15]([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:7])([H:5])[H:6].[H:8][C:15]([H:16])([H:17])[H:18],16.744368
